US06777190B1
Synthesis of Bis-(2-Acetylamino-2-Carboxyethylthio)succinimidyl Hexane (BMH-NAC)
Bis-maleimidohexane (0.05 g, 1.81×10−4 mol) and N-acetylcysteine (0.059 g, 3.62×10−4 mol) were dissolved in pyridine (1 ml). The reaction was stirred at 40° C. for 24 h. The solvent was removed in vacuo and the residue was dissolved in ethanol (5 ml) and the solvent removed in vacuo. This procedure was repeated 3 times more. The residue of the title compound weighed 0.1 g.

reactant | Bis-maleimidohexane | 1.81×10−4 mol, 0.05 g | C1(C=CC(N1C(CCCCC)N1C(C=CC1=O)=O)=O)=O | C14H16N2O4
reactant | N-acetylcysteine | 3.62×10−4 mol, 0.059 g | C(C)(=O)N[C@@H](CS)C(=O)O | C5H9NO3S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | Bis-(2-Acetylamino-2-Carboxyethylthio)succinimidyl Hexane | C(C)(=O)NC(CSC(CCCCC)(N1C(CCC1=O)=O)SCC(NC(C)=O)C(=O)O)C(=O)O | C20H31N3O8S2
